* A:\Dropbox\GitHub\quiz2matlab\et52b\lab09\TBJ04CA.asc
RB C B {RB}
Vcc N001 0 {Vcc}
Q1 C B 0 0 BC547B
Ci B CAin 1µ
Co CAout C 1µ
Vca CAin 0 SINE(0 1m 10k)
RL CAout 0 100k
RA C N001 {RA}
.model NPN NPN
.model PNP PNP
.lib C:\Users\ruseler\OneDrive\Documents\LTspiceXVII\lib\cmp\standard.bjt
.tran 0 0.01 0
.param Vcc=30 RB=820k RA=680
.meas Vipp PP V(CAin)
.meas Vopp PP V(CAout)
.meas Av param Vopp/Vipp
.meas Virms RMS V(CAin)
.meas Vbpp PP V(B)
.meas Vbrms  RMS V(B)
.meas Vbavg  AVG V(B)
.meas Vcpp PP V(C)
.meas Vcrms  RMS V(C)
.meas Vcavg  AVG V(C)
.meas Av2 param Vcpp/Vbpp
.meas Vorms RMS V(CAout)
.backanno
.end
