* A:\Dropbox\GitHub\quiz2matlab\et52b\lab08\TBJ03a.asc
V1 V1 0 {Vcc}
Rb B 0 {Rb}
Re V1 E {Re}
Q1 0 B E 0 BC557B
.model NPN NPN
.model PNP PNP
.lib C:\Users\ruseler\OneDrive\Documents\LTspiceXVII\lib\cmp\standard.bjt
.op
.param Vcc=50 Rb=680k Re=100
.meas VRb param V(b)
.meas PRb param VRb*I(Rb)
.meas Beta param Ic(Q1)/Ib(Q1)
.meas VRe param V(V1)-V(e)
.meas PRe param VRe*I(Re)
.backanno
.end
