* A:\Dropbox\GitHub\quiz2matlab\et52b\lab08\TBJ04a.asc
V1 V1 0 {Vcc}
Rb B C {Rb}
Rc C 0 {Rc}
Q1 C B V1 0 BC557B
.model NPN NPN
.model PNP PNP
.lib C:\Users\ruseler\OneDrive\Documents\LTspiceXVII\lib\cmp\standard.bjt
.op
.param Vcc=50 Rb=680k Rc=100
.meas VRc param V(c)
.meas VRb param V(b)-V(c)
.meas PRb param VRb*I(Rb)
.meas PRc param VRc*I(Rc)
.meas Beta param Ic(Q1)/Ib(Q1)
.meas Ic param I(Rc)-I(Rb)
.backanno
.end
