* C:\Users\adria\Dropbox\GitHub\quiz2matlab\et52b\lab11\lab11a.asc
Rd dd gs {Rd}
Vdd dd 0 {Vdd}
M1 gs gs 0 0 CD4007-NMOS
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\adria\OneDrive\Documents\LTspiceXVII\lib\cmp\standard.mos
.op
.param Rd=2.2e3 Vdd=10
.MODEL CD4007N NMOS (LEVEL=7
+VERSION=3.1 CAPMOD=2 MOBMOD=1
+TOX=4E-8 XJ=2.9E-7 NCH=4E15 NSUB=5.33E15 XT=8.66E-8 
+VTH0=1.4 U0= 1300 WINT=2.0E-7 LINT=1E-7 
+NGATE=5E20 RSH=300 JS=3.23E-8 JSW=3.23E-8 CJ=6.8E-8 MJ=0.5 PB=0.95
+CJSW=1.26E-10 MJSW=0.5 PBSW=0.95 PCLM=5
+CGSO=3.4E-10 CGDO=3.4E-10 CGBO=5.75E-10)
.MODEL CD4007P PMOS (LEVEL=7
+VERSION=3.1 CAPMOD=2 MOBMOD=1
+TOX=5E-8 XJ=2.26E-7 NCH=1E15 NSUB=8E14 XT=8.66E-8
+VTH0=-1.65 U0= 400 WINT=1.0E-6 LINT=1E-6
+NGATE=5E20 RSH=1347 JS=3.51E-8 JSW=3.51E-8 CJ=5.28E-8 MJ=0.5 PB=0.94
+CJSW=1.19E-10 MJSW=0.5 PBSW=0.94 PCLM=5
+CGSO=4.5E-10 CGDO=4.5E-10 CGBO=5.75E-10)
.meas VRd param V(dd)-V(gs)
.MODEL CD4007-NMOS    NMOS    ( LEVEL   = 1           L=5u    W=20u             
+VTO    = 1.77          Kp      = 2.169e-4      GAMMA   = 4.10  
+PHI    = 0.65          LAMBDA  = 1.5e-2        CBD     = 20e-12
+CBS    = 0             IS      = 1e-15         PB      = 0.87
+CBS    = 2e-14         CGDO    = 88e-8         CGBO    = 0
+CJ     = 2e-10         MJ      = 0.5           CJSW    = 1e-9
+MJSW   = 0.33          JS      = 1e-8          TOX     = 1.265e-10)
.backanno
.end
