* A:\Dropbox\GitHub\quiz2matlab\et52b\lab13\lab13b.asc
XU1 i N001 Vpp Vnn out LMX24
V1 Vpp 0 {Vpp}
V2 0 Vnn {Vnn}
Vi i 0 {Vi}
R0 out 0 1k
R1 N001 0 {R1}
R2 out N001 {R2}
.include A:\Dropbox\GitHub\quiz2matlab\et52b\lab13\LMx24.lib
.param Vpp=10 Vnn=10 R1=1k R2= 1k Vi=2
.op
.meas Gio param V(out)/V(i)
.backanno
.end
