* A:\Dropbox\GitHub\quiz2matlab\et52b\lab12\lab12c.asc
XU1 i 0 Vpp Vnn out LMX24
V1 Vpp 0 {Vpp}
V2 0 Vnn {Vnn}
Vi i 0 {Vi}
R1 out 0 1k
.include A:\Dropbox\GitHub\quiz2matlab\et52b\lab12\LMx24.lib
.param Vpp=5 Vnn=5 Vi=2 RL=1k
.op
.backanno
.end
