* C:\Users\Ruseler\Documents\GitHub\quiz2matlab\exemplos\LTspice\Filter01.asc
V1 Vpp 0 {Vs}
V2 0 Vnn {Vs}
RL o 0 {RL}
Vi i 0 AC 1.
XU1 0 N001 Vpp Vnn o level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
C2 o N001 {C2}
R1 N001 i {R1}
R2 o N001 {R2}
.param Vs=15 Vi=5 R1=1k R2=2k C1=1u C2=2u RL=100k
;tran 0.001 0.005 0
.ac dec 10 1 100k
.lib UniversalOpamps2.sub
.backanno
.end
