* C:\Users\Ruseler\Documents\GitHub\quiz2matlab\exemplos\LTspice\OPAMPTBJ01.asc
Q1 neg 0 o 0 TBJ
V1 Vpp 0 {Vs}
V2 0 Vnn {Vs}
RL o 0 {RL}
Vi i 0 {Vi}
XU1 0 neg Vpp Vnn o level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
R1 i neg {R1}
.model NPN NPN
.model PNP PNP
.lib C:\Users\Ruseler\Documents\LTspiceXVII\lib\cmp\standard.bjt
.param Vi=10 Vs=15 R1=1k RL=10k
.op
.model TBJ NPN(IS=10F VAF=150 NF=1.2)
.lib UniversalOpamps2.sub
.backanno
.end
