* F:\Dropbox\GitHub\quiz2matlab\sims\LTspice\DR03op.asc
V1 V1 0 {Vcc}
D1 V1 R1 1N4007
R1 R1 0 {R1}
.model D D
.lib C:\Users\Adriano Ruseler\Documents\LTspiceXVII\lib\cmp\standard.dio
.op
.param Vcc=25 R1=1.2k
.model 1N4007 D(IS=7.02767n RS=0.0341512 N=1.80803 EG=1.05743 XTI=5 
+ BV=1000 IBV=5e-08 CJO=1e-11 VJ=0.7 M=0.5 FC=0.5 TT=1e-07)
.meas Vd param V(V1)-V(R1)
.meas Pd param Vd*I(D1)
.backanno
.end
