* F:\Dropbox\GitHub\quiz2matlab\sims\LTspice\DR04op.asc
V1 V1 0 {Vcc}
D2 D1 R2 LedRed
R1 D1 V1 {R1}
R2 R2 0 {R2}
D1 0 D1 1N750
.model D D
.lib C:\Users\Adriano Ruseler\Documents\LTspiceXVII\lib\cmp\standard.dio
.op
.param Vcc=20 R1=1k R2=1k
.model LedRed D (IS=93.2P RS=42M N=3.73 BV=4 IBV=10U 
+CJO=2.97P VJ=.75 M=.333 TT=4.32U Iave=40m Vpk=4 type=LED)
.meas Vled param V(D1)-V(R2)
.meas Pled param Vled*I(D2)
.meas Pz param -I(D1)*V(D1)
.backanno
.end
