* E:\Dropbox\GitHub\quiz2matlab\sims\LTspice\DR01tran.asc
V1 V1 0 SINE(0 {Vpk} {freq})
D1 V1 R1 1N4148
R1 R1 0 {R1}
.model D D
.lib C:\Users\Ruseler\Documents\LTspiceXVII\lib\cmp\standard.dio
.param Vpk=25 R1=1.5k freq=60
.tran 0 0.01667 0
.meas Pout AVG V(R1)*I(R1)
.meas V1rms RMS V(V1)
.meas I1rms RMS I(V1)
.meas Sin param V1rms*I1rms
.meas Pin AVG -V(V1)*I(V1)
.meas Pf param Pin/Sin
.backanno
.end
