* A:\Dropbox\GitHub\quiz2matlab\sims\LTspice\TBJ.asc
Rb1 cc B {Rb}
Rc1 cc C {Rc}
Vcc1 cc 0 {Vcc}
Q1 C B 0 0 TBJ
.model NPN NPN
.model PNP PNP
.lib C:\Users\ruseler\OneDrive\Documents\LTspiceXVII\lib\cmp\standard.bjt
.param Vcc=30 Rb=820k Rc=680
.op
.model TBJ NPN(IS=10F BF=350)
.backanno
.end
