* F:\Dropbox\GitHub\quiz2matlab\sims\LTspice\netfiletest.asc
R1 R2 V1 {R1}
R2 0 R2 {R2}
V1 V1 0 {Vi}
.op
.param Vi=10 R1=1000 R2=1500
.meas Vr1 param V(V1)-V(R2)
.backanno
.end
