* F:\Dropbox\GitHub\quiz2matlab\sims\LTspice\steptest.asc
V1 V1 0 {Vcc}
R1 R 0 {R1}
D1 V1 R 1N4148
R2 R 0 {R2}
.model D D
.lib C:\Users\Adriano Ruseler\Documents\LTspiceXVII\lib\cmp\standard.dio
.op
.param Vcc=5 R1=1k R2=1k
.meas vd1 param V(V1)-V(R)
.meas pd param vd1*I(D1)
.backanno
.end
