* A:\Dropbox\GitHub\quiz2matlab\sims\LTspice\netfiletest.asc
R1 N002 N001 {R1}
R2 0 N002 {R2}
V1 N001 0 {Vi}
.op
.param Vi=10 R1=1000 R2=1500
.backanno
.end
